US06476045B2
1,1-Dimethylethyl (6-Chloro-3-pyridinyl)carbamate
Di-t-butyldicarbonate (9.3 g, 43 mmol) was added to a solution of 6-chloro-3-pyridinamine (4.58 g, 35.6 mmol) in 1,4-dioxane (50 mL) and the mixture was heated under reflux for 18 h. The mixture was cooled and poured into water. The mixture was extracted with ether and the combined organic fractions were washed with water, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with hexane and the solid was collected and dried in vacuo to give the title compound as an off-white solid (7.68 g, 94%). 1H NMR (400 MHz, CDCl3) δ 8.23 (1H, s), 7.96 (1H, br d, J 7.2 Hz), 7.25 (1H, d, J 7.2 Hz), 6.54 (1H, br s), and 1.52 (9H, s). m/z (ES+) 229, 231 (M+1).

reactant | Di-t-butyldicarbonate | 43 mmol, 9.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-chloro-3-pyridinamine | 35.6 mmol, 4.58 g | ClC1=CC=C(C=N1)N | C5H5ClN2
reactant | water | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl (6-Chloro-3-pyridinyl)carbamate | 7.68 g, 94% | ClC1=CC=C(C=N1)NC(OC(C)(C)C)=O | C10H13ClN2O2
